US06288082B1
A mixture of 0.249 g of 4-chloro-6,7-dimethoxy-quinolin-3-carbonitrile, 0.174 g of carbostyril 124, 0.020 g of pyridine hydrochloride, and 10 ml of ethoxyethanol was stirred under nitrogen, at reflux temperature for 30 minutes. The mixture was cooled and added to 40 ml of water. To this mixture was added sodium carbonate to pH 9. The product was collected, washed with water, and dried to give 0.356 g of 6,7-dimethoxy-4-(4-methyl-2-oxo-1,2-dihydro-quinolin-7-ylamino)-quinoline-3-carbonitrile as a solid, mp>300° C.; mass spectrum (electrospray, m/e): M+H 387.1446.

reactant | 4-chloro-6,7-dimethoxy-quinolin-3-carbonitrile | 0.249 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | carbostyril 124 | 0.174 g | CC1=CC(=O)NC2=C1C=CC(=C2)N | C10H10N2O
reactant | pyridine hydrochloride | 0.020 g | Cl.N1=CC=CC=C1
reactant | ethoxyethanol | 10 ml | C(C)OC(C)O | C4H10O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 40 ml | O | H2O
product | 6,7-dimethoxy-4-(4-methyl-2-oxo-1,2-dihydro-quinolin-7-ylamino)-quinoline-3-carbonitrile | 0.356 g | COC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC=C2C(=CC(NC2=C1)=O)C | C22H18N4O3
